US07842713B2
To a stirred mixture of 3-chloro-4-fluorobenzenethiol (65 g, 0.403 mol) and potassium carbonate (54 g, 0.39 mol) in DMF (450 mL) was added drop wise CH3I (24.96 mL, 0.442 mol) at room temperature, and the mixture was stirred overnight. The reaction mixture was diluted with water (200 mL) and extracted with ethyl ether (150 mL×3), the combined organic phases were dried over Na2SO4 and evaporated under reduced pressure to give (3-chloro-4-fluorophenyl)(methyl)sulfane (70 g, 98%) as a yellow liquid. To a solution of (3-chloro-4-fluorophenyl)(methyl)sulfane (66 g, 0.37 mol) in dichloromethane (1600 mL) was added 3-chloroperoxybenzoic acid (85% purity, 157 g, 0.77 mol) in portions, and the mixture was stirred at room temperature for 2 h. Then the mixture was washed with saturated aqueous sodium sulfite (600 mL). The organic phases were separated and sequentially washed with saturated aqueous sodium bicarbonate (250 mL×2) and water (250 mL), dried over Na2SO4 and evaporated under reduced pressure to give a yellow solid. The crude product was re-crystallized from ether (200 mL) to give the title compound (39.45 g, 51%) as a white solid.

reactant | 3-chloro-4-fluorobenzenethiol | 0.403 mol, 65 g | ClC=1C=C(C=CC1F)S | C6H4ClFS
reactant | potassium carbonate | 0.39 mol, 54 g | C([O-])([O-])=O.[K+].[K+]
reactant | CH3I | 0.442 mol, 24.96 mL | CI | CH3I
solvent | DMF | 450 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | (3-chloro-4-fluorophenyl)(methyl)sulfane | 70 g, 98% | ClC=1C=C(C=CC1F)SC | C7H6ClFS
